US06531491B1
2-Methyl-4-[2-(trimethyl-silanyl)-ethoxymethoxy]-phenyl-boronic acid was prepared in 52% yield from [2-(4-bromo-3-methyl-phenoxymethoxy)-ethyl]-trimethyl-silane according to the procedure for 5-methoxy-2-methyl-4-[2-(trimethyl-silanyl)-ethoxymethoxy]-phenyl-boronic acid above. 1H NMR (300 MHz, CDCl3) δ 8.15 (d, 1H, J=8.1 Hz), 6.98-6.92 (m, 2H), 5.29 (s, 2H), 3.78 (t, 2H, J=8.4 Hz), 2.78 (s, 3H), 0.98 (t, 2H, J=8.4 Hz), 0.01 (s, 9H). Anal. (C13H23BO4Si—H2O) C, H. Calculated: C, 59.10; H, 8.01. Found: C, 59.07; H, 8.08.

reactant | [2-(4-bromo-3-methyl-phenoxymethoxy)-ethyl]-trimethyl-silane | BrC1=C(C=C(OCOCC[Si](C)(C)C)C=C1)C | C13H21BrO2Si
reactant | 5-methoxy-2-methyl-4-[2-(trimethyl-silanyl)-ethoxymethoxy]-phenyl-boronic acid | COC=1C(=CC(=C(C1)B(O)O)C)OCOCC[Si](C)(C)C | C14H25BO5Si
product | 2-Methyl-4-[2-(trimethyl-silanyl)-ethoxymethoxy]-phenyl-boronic acid | 52% yield | CC1=C(C=CC(=C1)OCOCC[Si](C)(C)C)B(O)O | C13H23BO4Si
